US08877760B2
To a solution of 5-((3R,4R)-3-aminotetrahydro-2H-pyran-4-ylamino)-3-(p-tolylamino)pyrazine-2-carbonitrile in methanol (1 ml) was added K2CO3 (excess) and H2O2 (50%, a few drops). After completion, it was concentrated and purified by preparative HPLC to give 5-((3R,4R)-3-aminotetrahydro-2H-pyran-4-ylamino)-3-(p-tolylamino)pyrazine-2-carboxamide. MS found for C17H22N6O2 as (M+H)+ 343.3, UV: λ=251.2, 302.9.

reactant | 5-((3R,4R)-3-aminotetrahydro-2H-pyran-4-ylamino)-3-(p-tolylamino)pyrazine-2-carbonitrile | N[C@H]1COCC[C@H]1NC=1N=C(C(=NC1)C#N)NC1=CC=C(C=C1)C | C17H20N6O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 1 ml | CO | CH4O
catalyst | H2O2 | a few drops | OO | H2O2
product | 5-((3R,4R)-3-aminotetrahydro-2H-pyran-4-ylamino)-3-(p-tolylamino)pyrazine-2-carboxamide | N[C@H]1COCC[C@H]1NC=1N=C(C(=NC1)C(=O)N)NC1=CC=C(C=C1)C | C17H22N6O2
